US06433211B1
4-Cyano-2,3,5,6-tetrachlorobenzamide (284 g) which had been synthesized separately and water (2556 g) were placed in a four-neck flask, and the mixture was cooled to 15° C. with stirring. Subsequently, an aqueous solution (2360 g) of sodium hypochlorite (effective chlorine 12%) was added to the reaction mixture over six hours while a 50% aqueous solution of sulfuric acid was added so as to maintain the pH of the mixture at 5-6. Liquid chromatographic analysis revealed that the reaction mixture contained 262.2 g of 4-cyano-2,3,5,6-tetrachlorobenzoic acid (yield 92%).

reactant | 4-Cyano-2,3,5,6-tetrachlorobenzamide | 284 g | C(#N)C1=C(C(=C(C(=O)N)C(=C1Cl)Cl)Cl)Cl | C8H2Cl4N2O
reactant | sodium hypochlorite | 2360 g | Cl[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 2556 g | O | H2O
product | 4-cyano-2,3,5,6-tetrachlorobenzoic acid | 262.2 g, yield 92% | C(#N)C1=C(C(=C(C(=O)O)C(=C1Cl)Cl)Cl)Cl | C8HCl4NO2
